US07465809B2
N-(4-Cyano-3-trifluoromethyl-phenyl)-2-propyl-acrylamide
Following the procedure described in Example 1, starting from 4-cyano-3-trifluoromethyl-aniline and 2-propyl-acrylic acid, the title compound was prepared as a yellow solid.

reactant | 4-cyano-3-trifluoromethyl-aniline | C(#N)C1=C(C=C(N)C=C1)C(F)(F)F | C8H5F3N2
reactant | 2-propyl-acrylic acid | C(CC)C(C(=O)O)=C | C6H10O2
product | N-(4-Cyano-3-trifluoromethyl-phenyl)-2-propyl-acrylamide | C(#N)C1=C(C=C(C=C1)NC(C(=C)CCC)=O)C(F)(F)F | C14H13F3N2O
